US09162992B2
O-Allyl-N-(4,6-bis-n-propylamino-[1,3,5]triazin-2-yl)-hydroxylamine hydrochloride (XLIV) was prepared from O-allyl-N-(4,6-bis-n-propylamino-[1,3,5]triazin-2-yl)-hydroxylamine (XLIII) and 2M HCl/ethyl ether as described in Example 12. 400 MHz 1H NMR (DMSO-d6, ppm) 11.7-10.0 (1H, m), 7.9-7.1 (2H, m), 6.09-5.92 (1H, m), 5.39-5.18 (2H, m), 4.35 (2H, d, J=6.0 Hz), 3.28-3.11 (4H, m), 1.56-1.42 (4H, m), 0.91-0.81 (6H, m). ESI-MS (m/z): 267 [M+H]+. MP: 130-132° C.

reactant | O-allyl-N-(4,6-bis-n-propylamino-[1,3,5]triazin-2-yl)-hydroxylamine | C(C=C)ONC1=NC(=NC(=N1)NCCC)NCCC | C12H22N6O
reactant | HCl ethyl ether | 2M | Cl.C(C)OCC
product | O-Allyl-N-(4,6-bis-n-propylamino-[1,3,5]triazin-2-yl)-hydroxylamine hydrochloride | Cl.C(C=C)ONC1=NC(=NC(=N1)NCCC)NCCC | InChI=1S/C12H22N6O.ClH/c1-4-7-13-10-15-11(14-8-5-2)17-12(16-10)18-19-9-6-3;/h6H,3-5,7-9H2,1-2H3,(H3,13,14,15,16,17,18);1H
